US06916819B2
To the mixture of H2O (5 mL) and CH2Cl2 (5 mL) is added 1-Propyl-2-{[2-(2-fluoropyrid-6-yl)-1H-imidazol-1-yl]methyl}-5-aza-1H-benzimidazole (168 mg, 0.5 mmol), pyruvic acid (132 mg, 1.5 mmol), silver nitrate (7 mg, 0.04 mmol), (NH4)2S2O8 (342 mg, 1.5 mmol), and sulfuric acid (98%, 100 mg, 1.0 mmol). The mixture is heated to 40° C. for 2 hr, then cooled to room temperature. The aqueous solution is neutralized to pH 8 with saturated sodium bicarbonate solution and extracted with CH2Cl2. The combined organic layers are dried over Na2SO4 and solvent is removed to give a brown solid. Purification by preparative TLC provides ′1-(2-{[2-(6-fluoropyridin-2-yl)-1H-imidazol-1-yl]methyl}-1-propyl-1H-imidazo[4,5-c]pyridin-4-yl)ethanone as white solid. 1H NMR (CDCl3) δ 8.48 (d, 1H), 8.12 (dd, 1H), 7.88 (q, 1H), 7.44 (d, 1H), 7.23 (d, 1H), 7.11 (d, 1H), 6.88 (dd, 1H), 6.40 (s, 2H), 4.22 (q, 2H), 2.84 (s, 3H), 1.58 (m, 2H), 0.74 (t, 3H).

reactant | 1-Propyl-2-{[2-(2-fluoropyrid-6-yl)-1H-imidazol-1-yl]methyl}-5-aza-1H-benzimidazole | 0.5 mmol, 168 mg | C(CC)N1C(=NC2=C1C=CN=C2)CN2C(=NC=C2)C2=CC=CC(=N2)F | C18H17FN6
reactant | pyruvic acid | 1.5 mmol, 132 mg | C(C(=O)C)(=O)O | C3H4O3
reactant | sulfuric acid | 1.0 mmol, 100 mg | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | silver nitrate | 0.04 mmol, 7 mg | [N+](=O)([O-])[O-].[Ag+]
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 5 mL | O | H2O
product | 1-(2-{[2-(6-fluoropyridin-2-yl)-1H-imidazol-1-yl]methyl}-1-propyl-1H-imidazo[4,5-c]pyridin-4-yl)ethanone | FC1=CC=CC(=N1)C=1N(C=CN1)CC=1N(C2=C(C(=NC=C2)C(C)=O)N1)CCC | C20H19FN6O
